US07737151B2
N-(4-(6-(5-methylthiazol-2ylamino)pyrazin-2-ylthio)phenyl)cyclopropanecarboxamide (I-1)
To a solution of N-(4-(6-chloropyrazin-2-ylthio)phenyl)cyclopropanecarboxamide (0.82 mmol) and 2-amino-5-methylthiazole (0.86 mmol) in 1,4-dioxan (3 mL), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (0.05 mmol), tris(dibenzylideneacetone)dipalladium (0.03 mmol) and sodium carbonate (1.15 mmol) were added. The resulting solution was heated at 120° C. in the microwave (175 W, 25 psi) for 3 h. Water (10 mL) and ethyl acetate (10 mL) were added and the layers separated. The aqueous layer was extracted further with ethyl acetate (2×10 mL), the combined organic layers dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography eluting with MeOH:CH2Cl2 (1:20) to give the title compound (42.5 mg, 14%) as a light brown solid; 1H NMR (400 MHz, DMSO-d6) δ 0.81 (4H, m), 1.82 (1H, m), 2.16 (3H, s), 3.32 masked signal, 6.99 (1H, m), 7.58 (2H, m), 7.76 (2H, m), 7.84 (1H, s), 8.04 (1H, s), 10.49 (1H, s), 11.50 (1H, br s); MS (ES+): m/e=384.48 (100%).

reactant | N-(4-(6-chloropyrazin-2-ylthio)phenyl)cyclopropanecarboxamide | 0.82 mmol | ClC1=CN=CC(=N1)SC1=CC=C(C=C1)NC(=O)C1CC1 | C14H12ClN3OS
reactant | 2-amino-5-methylthiazole | 0.86 mmol | NC=1SC(=CN1)C | C4H6N2S
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.05 mmol | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | sodium carbonate | 1.15 mmol | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxan | 3 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.03 mmol | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | Water | 10 mL | O | H2O
product | N-(4-(6-(5-methylthiazol-2ylamino)pyrazin-2-ylthio)phenyl)cyclopropanecarboxamide | 42.5 mg, 14% | CC1=CN=C(S1)NC1=CN=CC(=N1)SC1=CC=C(C=C1)NC(=O)C1CC1 | C18H17N5OS2
